US04521413
To a solution of sodium (9.2 g) in ethylene glycol (100 ml) was added portionwise 4-chloropyridine (39.6 g) under heating at 120° to 130° C. and stirring, which was continued for one hour at 130° C. after the addition. The mixture was cooled to -15° C. and dry ice (5.2 g) was added thereto. The mixture was warmed to 45° C. and allowed to stand at room temperature. The resulting precipitates were removed by filtration and washed with diisopropyl ether. The filtrate and washings were combined and evaporated. The residual oil was distilled to give 4-(2-hydroxyethoxy)pyridine (9 g), bp. 138° to 145° C. at 5 to 6 mmHg, which solidified and recrystallized from ethyl acetate. mp. 113° to 115° C. (dec.).

reactant | sodium | 9.2 g | [Na] | Na
reactant | 4-chloropyridine | 39.6 g | ClC1=CC=NC=C1 | C5H4ClN
reactant | dry ice | 5.2 g | C(=O)=O | CO2
reactant | ethylene glycol | 100 ml | C(CO)O | C2H6O2
product | 4-(2-hydroxyethoxy)pyridine | 9 g | OCCOC1=CC=NC=C1 | C7H9NO2
